US08383827B2
Step 1: Synthesis of 4-(5-Formyl-pyridin-3-yl)-3-methoxy-benzonitrile
A mixture of 4-bromo-3-methoxy-benzonitrile (400 mg, 1.88 mmol), 5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridine-3-carbaldehyde (440 mg, 1.88 mmol), PdCl2(PPh3)2 (108 mg, 0.15 mmol) and Na2CO3 (2M in water, 1.88 mL, 3.77 mmol) in 1,4-dioxane (8 mL) was heated at 100° C. for 1.5 h. After concentration in vacuo, the resulting residue was purified by flash column to give the title compound (449 mg, 100%) as white solid; ESI-MS m/z: 239 [M+1]+.

reactant | 4-bromo-3-methoxy-benzonitrile | 1.88 mmol, 400 mg | BrC1=C(C=C(C#N)C=C1)OC | C8H6BrNO
reactant | 5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridine-3-carbaldehyde | 1.88 mmol, 440 mg | CC1(OB(OC1(C)C)C=1C=C(C=NC1)C=O)C | C12H16BNO3
reactant | Na2CO3 | 3.77 mmol, 2M, 1.88 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 8 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(PPh3)2 | 0.15 mmol, 108 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-(5-Formyl-pyridin-3-yl)-3-methoxy-benzonitrile | 449 mg, 100% | C(=O)C=1C=C(C=NC1)C1=C(C=C(C#N)C=C1)OC | C14H10N2O2
